US09259426B2
Synthesis of 4-(N-propylamino)-6-(4-fluorophenyl)-quinazoline
This compound was synthesized from 4-chloro-6-(4-fluorophenyl)-quinazoline and n-propylamine in 83% yield, using the procedure described for example 37, and was characterized by its mass spectrum as follows: MS (m/z): 282 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | n-propylamine | C(CC)N | C3H9N
product | 4-(N-propylamino)-6-(4-fluorophenyl)-quinazoline | 83% yield | C(CC)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C17H16FN3
